US05204462
10% Pd-C (3.00 g) was added to a 1% water-containing methanol solution (200 ml) of N-hexanoyl-L-proline benzyl ester (25.61 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 1.5 hours. After the catalyst was filtered off, the filtrate was concentrated to obtain 17.61 g of N-hexanoyl-L-proline.

reactant | water | O | H2O
reactant | N-hexanoyl-L-proline benzyl ester | 25.61 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CCCCC)=O)=O | C18H25NO3
catalyst | Pd-C | 3.00 g | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | N-hexanoyl-L-proline | 17.61 g | C(CCCCC)(=O)N1[C@H](C(=O)O)CCC1 | C11H19NO3
